US04273779
To the solution of 7 g of 5-(m-chlorobenzylamino)-pyridine-2-carboxylic acid methyl ester in 30 ml of isopropanol, 15 ml of 2 N aqueous sodium hydroxide are added and the mixture is warmed on the steam bath for 1/2 hour. It is diluted with 20 ml of isopropanol and 20 ml of diethyl ether whereupon a precipitate formes on cooling. It is collected and recrystallized from the mixture of 15 ml of water and 5 ml of isopropanol, to yield the sodium 5-(m-chlorobenzylamino)-pyridine-2-carboxylate melting at 250°-255°.

reactant | 5-(m-chlorobenzylamino)-pyridine-2-carboxylic acid methyl ester | 7 g | COC(=O)C1=NC=C(C=C1)NCC1=CC(=CC=C1)Cl | C14H13ClN2O2
reactant | sodium hydroxide | 2 N, 15 ml | [OH-].[Na+]
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | sodium 5-(m-chlorobenzylamino)-pyridine-2-carboxylate | ClC=1C=C(CNC=2C=CC(=NC2)C(=O)[O-])C=CC1.[Na+] | InChI=1S/C13H11ClN2O2.Na/c14-10-3-1-2-9(6-10)7-15-11-4-5-12(13(17)18)16-8-11;/h1-6,8,15H,7H2,(H,17,18);/q;+1/p-1
